US06756378B2
4-[5-(R)-benzyloxymethyl-1-[4-[N′-(2-bromophenyl)ureido]-3-methoxyphenylacetyl]-2-(S)-pyrrolidinylmethoxy]benzoic acid
To a stirred solution of methyl 4-[5-(R)-benzyloxymethyl-1-[4-[N′-(2-bromophenyl)ureido]-3-methoxyphenylacetyl]-2-(S)-pyrrolidinylmethoxy]benzoate (178 mg, 0.25 mmol) in MeOH-THF (2:5, 7 ml) was added 1.0M-NaOH (750 ml, 0.75 mmol) at rt, and the resulting mixture was heated at 80° C. with stirring for 1.5 h. The reaction mixture was poured into 1N-HCl, then extracted with CHCl3. The organic layer was washed with brine, drying over anhydrous Na2SO4, then concentrated in vacuo. The residue was chromatographed on silica gel with CHCl3-MeOH (15:1) as eluent to give 128 (159 mg, 91%) as a colorless amorphous solid MW 702.59 1H-NMR (CD3OD), mixture of rotamars δ1.88-2.35 (series of m, 4 H), 3.51-4.49 (series of m, 8 H), 3.64 and 3.72 (s, total 3 H), 4.87 (s, 2 H), 6.65-8.05 (series of m, 16 H); MS (ESI) m/z, 702 (M+), 704 (M++2); Anal. Calcd. for C36H36BrN3O7.H2O: C, 60.00; H, 5.32; N, 5.83. Found: C, 59.66; H, 5.04; N, 5.65.

reactant | methyl 4-[5-(R)-benzyloxymethyl-1-[4-[N′-(2-bromophenyl)ureido]-3-methoxyphenylacetyl]-2-(S)-pyrrolidinylmethoxy]benzoate | 0.25 mmol, 178 mg | C(C1=CC=CC=C1)OC[C@H]1CC[C@H](N1C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)Br)OC)=O)COC1=CC=C(C(=O)OC)C=C1 | C37H38BrN3O7
reactant | NaOH | 0.75 mmol, 750 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH THF | 7 ml | CO.C1CCOC1
product | 4-[5-(R)-benzyloxymethyl-1-[4-[N′-(2-bromophenyl)ureido]-3-methoxyphenylacetyl]-2-(S)-pyrrolidinylmethoxy]benzoic acid | C(C1=CC=CC=C1)OC[C@H]1CC[C@H](N1C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)Br)OC)=O)COC1=CC=C(C(=O)O)C=C1 | C36H36BrN3O7
